US04746654
(a) Di-(benzothiazol-2-yl)-disulfide
A solution of 20 g of iodine and 115 g of potassium iodide in 400 ml of water is added dropwise to a solution of 30 g of 2-mercapto-benzothiazole and 1.6 g of sodium hydroxide in 800 ml of absolute ethanol. After completion of the addition, the mixture is stirred for 30 minutes at ambient temperature and the precipitate is then filtered off, washed with ethanol and then washed with ether.

reactant | iodine | 20 g | II | I2
reactant | potassium iodide | 115 g | [I-].[K+]
reactant | 2-mercapto-benzothiazole | 30 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | Di-(benzothiazol-2-yl)-disulfide | S1C(=NC2=C1C=CC=C2)SSC=2SC1=C(N2)C=CC=C1 | C14H8N2S4
